US06528525B1
(b) Methyl 3′-methoxymethoxymethylbiphenyl-4-carboxylate
Chloromethylmethyl ether (0.24 ml) and diisopropylethylamine (0.74 ml) was added to a solution of methyl 3′-hydroxymethylbiphenyl-4-carboxylate (504 mg), which is the product of Reference example 15(a), in anhydrous dichloromethane (10 ml) at 0° C. The mixture was stirred at 0° C. for 1 hour and then allowed to stand at ambient temperature for 14 hours. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water and the layers were separated. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=2/1 as the eluant to afford the desired compound (467 mg) as colorless crystals.

reactant | Chloromethylmethyl ether | 0.24 ml | ClCOC | C2H5ClO
reactant | diisopropylethylamine | 0.74 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl 3′-hydroxymethylbiphenyl-4-carboxylate | 504 mg | OCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C15H14O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 3′-methoxymethoxymethylbiphenyl-4-carboxylate | 467 mg | COCOCC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C17H18O4
